US08865682B2
To 240 mL of 1,4-dioxane, were added (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-6-fluoro-1,3-dihydro-2H-indol-2-one (3.0 g, 9.3 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (complex with CH2Cl2, 360 mg, 0.49 mmol), 1M KF aqueous solution (37.5 mL, 37.5 mmol). The resulting mixture was heated at 70° C. under Ar and then 2-chloro-5-pyridineboronic acid (1.57 g, 10.0 mmol) was added in several portions. The reaction was heated at 70° C. under Ar for 22 hours. LC-MS indicated that no starting material molecular peak left; the major peak at 2.59 min with MH+=357.0 was assigned to the product, 3-[4-(6-chloro-pyridin-3-yl)-5,5-dimethyl-5H-furan-(2E)-ylidene]-6-fluoro-1,3-dihydro-indol-2-one (yield>60%).

reactant | (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-6-fluoro-1,3-dihydro-2H-indol-2-one | 9.3 mmol, 3.0 g | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC(=CC=C12)F)=O | C14H11BrFNO2
reactant | KF | 37.5 mmol, 1M, 37.5 mL | [F-].[K+]
reactant | 2-chloro-5-pyridineboronic acid | 10.0 mmol, 1.57 g | ClC1=NC=C(C=C1)B(O)O | C5H5BClNO2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.49 mmol, 360 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 240 mL | O1CCOCC1 | C4H8O2
product | 3-[4-(6-chloro-pyridin-3-yl)-5,5-dimethyl-5H-furan-(2E)-ylidene]-6-fluoro-1,3-dihydro-indol-2-one | yield>60% | ClC1=CC=C(C=N1)C1=C/C(/OC1(C)C)=C/1\C(NC2=CC(=CC=C12)F)=O | C19H14ClFN2O2
